US04946839
Preparation of cis-Azetidine-2.3-dicarboxylic acid
cis-N-(Benzyloxycarbonyl) azetidine-2,3-dicarboxylic acid, 10% Pd/C and methanol are hydrogenated under 3 atm of hydrogen in a Parr shaker for 4 hours. The catalyst is filtered off and thoroughly washed. The solution is evaporated to dryness and dried in vacuo to arrive at cis-azetidine2,3-dicarboxylic acid.

reactant | cis-N-(Benzyloxycarbonyl) azetidine-2,3-dicarboxylic acid | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](C1)C(=O)O)C(=O)O | C13H13NO6
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | CO | CH4O
product | cis-Azetidine-2.3-dicarboxylic acid | N1[C@H]([C@H](C1)C(=O)O)C(=O)O | C5H7NO4
